US08389766B2
Preparation of 3-cyano-5-(4′-cyano-benzoylamino)-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide (Compound No. B1 of Table B)
To a solution of 5-amino-3-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide (0.199 mg, 0.46 mmol) (Example I9) in tetrahydrofuran (3 ml) were added successively pyridine (0.117 ml, 1.45 mmol) and 4-cyano-benzoyl chloride (80 mg, 0.48 mmol). The reaction mixture was stirred for 2 hours at ambient temperature. Aqueous sodium hydrogen carbonate (saturated) was added and the phases were separated. The aqueous phase was extracted twice with ethyl acetate. The combined organic extracts were dried over sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (eluent: cyclohexane/ethyl acetate 2:1) to give Compound No. B1 of Table B (0.186 g, 71.9% yield). 1H-NMR (400 MHz, CHCl3): 8.45 (s, 1H), 8.36 (s, 1H), 8.27 (s, 1H), 8.00 (m, 3H), 7.84 (m, 2H), 7.63 (s, 1H), 7.37 (s, 2H), 2.34 (s, 6H) ppm.

reactant | 5-amino-3-cyano-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide | 0.46 mmol, 0.199 mg | NC=1C=C(C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C1)C#N | C19H14F7N3O
reactant | pyridine | 1.45 mmol, 0.117 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-cyano-benzoyl chloride | 0.48 mmol, 80 mg | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-cyano-5-(4′-cyano-benzoylamino)-N-[2,6-dimethyl-4-(1,2,2,2-tetrafluoro-1-trifluoromethyl-ethyl)-phenyl]-benzamide | 71.9% yield | C(#N)C=1C=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)C)C=C(C1)NC(C1=CC=C(C=C1)C#N)=O | C27H17F7N4O2
